US07964608B2
1-(1-Acetyl-piperidin-4-yl)-3-(3-chloro-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (45 mg) was prepared according to general procedure H from 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride (50 mg, 0.1 mmol) and acetyl chloride. LCMS: m/z 479 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.59 (s, 1H), 7.58 (m, 1H), 7.52 (m, 1H), 7.42 (m, 1H), 7.24 (m, 1H), 7.10-7.18 (m, 2H), 6.48 (m, 1H), 5.18 (m, 1H), 4.82 (m, 1H), 4.12 (s, 3H), 3.95 (m, 1H), 3.20 (m, 1H), 3.58-3.78 (m, 3H), 2.08 (s, 3H), 1.78 (m, 2H) ppm.

reactant | 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride | 0.1 mmol, 50 mg | Cl.Cl.ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCNCC1)=O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1-(1-Acetyl-piperidin-4-yl)-3-(3-chloro-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 45 mg | C(C)(=O)N1CCC(CC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=CC=C2)Cl)=O | C25H23ClN4O4
